US07982069B2
N,N,N′,N′-tetramethyl-N″-butylguanidine was prepared as follows: 9.3 g tetramethyl urea was added to 80 mL dry dichloroethane in a two-neck 250 mL round-bottom-flask. 11.3 mL oxalyl chloride was added and the solution was heated at 70° C. for two hours. The solvent was evaporated in vacuo after the solution cooled to room temperature. Residual solid was then dissolved in dry acetonitrile and cooled to 0° C. 15 mL butyl amine (1.02 eq) was slowly added. The solution was slowly warmed and allowed to reflux for one hour. Finally, the mixture was cooled to room temperature and the solvent was removed in vacuo to yield 9 g of a clear oil. 1H (CDCl3): δ (ppm): 2.99 (t, 2H); 2.62 (s, 3H); 2.53 (s, 3H); 1.39 (quintet, 2H); 1.24 (quintet, 2H); 0.78 (t, 3H). The synthesis was performed several times and the yield ranged from 37%-70%.

reactant | tetramethyl urea | 9.3 g | CN(C(N(C)C)=O)C | C5H12N2O
reactant | oxalyl chloride | 11.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | butyl amine | 15 mL, 1.02 eq | C(CCC)N | C4H11N
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
product | N,N,N′,N′-tetramethyl-N″-butylguanidine | CN(C(=NCCCC)N(C)C)C | C9H21N3
